US04059641
Following the procedure stated in Example 2-(1), 5.8 g of (E)-4-methyl-6-(2'-tetrahydropyranyloxy)-4-hexen-1-yltriphenylphosphonium iodide was treated with n-buthyllithium in 30 ml of anhydrous tetrahydrofuran. Then, the resultant was treated with 3.2 g of 1,1-dimethoxy-6,10,14-trimethyl-5,9,13-pentadecatrien-2-one prepared by the process stated in Referential example 7. The resulting oil was treated with 40 ml of 50% acetic acid to yield 4.2 g of 7-formyl-3,11,15,19-tetramethyl-2,6,10,14,18-eicosapentaen-1-ol tetrahydropyranyl ether. The product was reduced with 150 mg of sodium borohydride and treated with p-toluenesulfonic acid in methanol in the same manner as stated earlier, and purified by the silica gel column chromatography to yield 1.6 g of the desired product. This was a mixture of the (E,E,E,E), (E,Z,Z,E), (E,Z,E,E) and (E,E,Z,E) isomers.

reactant | 1,1-dimethoxy-6,10,14-trimethyl-5,9,13-pentadecatrien-2-one | 3.2 g | COC(C(CCC=C(CCC=C(CCC=C(C)C)C)C)=O)OC | C20H34O3
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 7-formyl-3,11,15,19-tetramethyl-2,6,10,14,18-eicosapentaen-1-ol tetrahydropyranyl ether | 4.2 g | O1C(CCCC1)OCC=C(CCC=C(CCC=C(CCC=C(CCC=C(C)C)C)C)C=O)C | C30H48O3
